US05763450
1.2 g of 1,7-bis-methoxymethoxy-naphthalene are dissolved in 9 ml of THF and cooled to -78°. 3.13 ml of a 1.6M n-butyl-lithium solution in hexane are added dropwise thereto and the mixture is stirred at room temperature overnight. Subsequently, it is again cooled to -78° and a solution of 1.25 g of iodine in 3.4 ml of THF is added dropwise. The mixture is warmed to room temperature and 10 ml of saturated ammonium chloride solution are added. The organic solvents are evaporated on a rotary evaporator and the residue is extracted three times with ether. After drying and evaporation the residue is chromatographed on silica gel with ethylene chloride. 0.72 g of 8-iodo-1,7-bis-methoxy-naphthalene is thus isolated. Yield: 40%. Mass spectrum: peaks inter alia at 374 (M+, 87%), 171 (40%), 45 (100%).

reactant | 1,7-bis-methoxymethoxy-naphthalene | 1.2 g | COCOC1=CC=CC2=CC=C(C=C12)OCOC | C14H16O4
reactant | n-butyl-lithium | 1.6M | C(CCC)[Li]
reactant | iodine | 1.25 g | II | I2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 3.4 ml | C1CCOC1 | C4H8O
product | 8-iodo-1,7-bis-methoxy-naphthalene | 0.72 g, Yield: 40% | IC=1C(=CC=C2C=CC=C(C12)OC)OC | C12H11IO2
